US08802864B2
2-(4-[4-(1-benzofuran-5-yl)phenyl]-3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetamide
To a solution of 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (50 mg, 0.117 mmol) in N,N-dimethylformamide (1 mL) in a 5 mL microwaveable vial was added potassium carbonate (50 mg, 0.362 mmol, 3.1 eq) and 2-chloroacetamide (16 mg, 0.175 mmol, 1.5 eq). The vial was capped and purged with nitrogen gas, and the reaction mixture was stirred for 16 h at 80° C. Analysis by LC/MS displayed the reaction had gone to completion. The reaction mixture was cooled to room temperature and poured into a mixture of dichloromethane and water. The organic layer was separated. The aqueous layer was washed with dichloromethane. The organic extractions were combined and washed 3× with a dilute brine solution. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude product was purified by reverse phase HPLC (LUNA C-18: 30×50 mm column; 20-50% acetonitrile w/0.1% TFA/water w/0.1% TFA). The product fractions were neutralized with the addition of saturated aq sodium bicarbonate, combined, and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound (25 mg, 44%). MS(ES)+ m/e 486.2 [M+H]+.

reactant | 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.117 mmol, 50 mg | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(NN=C2C[C@H]2CN(CC2)C(=O)C2CC2)=O | C25H24N4O3
reactant | potassium carbonate | 0.362 mmol, 50 mg, 3.1 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroacetamide | 0.175 mmol, 16 mg, 1.5 eq | ClCC(=O)N | C2H4ClNO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-(4-[4-(1-benzofuran-5-yl)phenyl]-3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetamide | 25 mg, 44% | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(=NN(C2=O)CC(=O)N)C[C@H]2CN(CC2)C(=O)C2CC2 | C27H27N5O4
